US05574046
N-Phenylsulfonyl-5-nitroindole
A solution of 5-nitroindole (1.62 g, 10 mmol) in 30 ml of dimethylformamide (DMF) was treated with 60% sodium hydride (0.44 g, 11 mmol) at room temperature. After 3 minutes, benzenesulfonyl chloride (1.766 g, 10 mmol) was added. The mixture was stirred at room temperature overnight and treated with 250 ml of water. A precipitate formed and was filtered to give a yellow solid which was pumped in vacuo to give 2.7 g (89%) of the title compound.

reactant | 5-nitroindole | 10 mmol, 1.62 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | sodium hydride | 11 mmol, 0.44 g | [H-].[Na+]
reactant | benzenesulfonyl chloride | 10 mmol, 1.766 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | 250 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-Phenylsulfonyl-5-nitroindole | 2.7 g, 89% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C14H10N2O4S
